US09029399B2
Preparation of Intermediate 1-(2-chloro-pyridin-4-yl)imidazolidin-2-one (I-33b)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(2-chloroethyl)-3-(2-chloro-pyridin-4-yl) urea (I-33a: 7.0 g, 30.042 mmol) in dry THF (40 mL) was reacted with 60% NaH (1.08 g, 45.06 mmol) in dry THF (30 mL) to afford the crude product. Purification by column chromatography on silica gel (1% methanol in DCM) afforded 5.40 g of the product (92% yield).

reactant | 1-(2-chloroethyl)-3-(2-chloro-pyridin-4-yl) urea | 30.042 mmol, 7.0 g | ClCCNC(=O)NC1=CC(=NC=C1)Cl | C8H9Cl2N3O
reactant | NaH | 45.06 mmol, 1.08 g | [H-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(2-chloro-pyridin-4-yl)imidazolidin-2-one | 5.40 g, 92% yield | ClC1=NC=CC(=C1)N1C(NCC1)=O | C8H8ClN3O
